US04478847
Sulphuryl chloride (2.74 g.) was added to a stirred suspension of 1'-(3,4-dichlorobenzyl)-spiro[pyrrolidine-3,3'-indoline]-2,2',5-trione (3.0 g.) in acetic acid (50 ml.). The mixture was stirred at 60° C. for 5 hours, cooled to ambient temperature and then stirred at this temperature for 16 hours. The mixture was then poured into water (250 ml.). The white solid which formed was collected by filtration, washed with water, air dried and recrystallised from 2-propanol to give 5'-chloro-1'-(3,4-dichlorobenzyl)spiro[pyrrolidine-3,3'-indoline]-2,2',5-trione (1.9 g.), m.p. 268°-270° C.

reactant | Sulphuryl chloride | 2.74 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 1'-(3,4-dichlorobenzyl)-spiro[pyrrolidine-3,3'-indoline]-2,2',5-trione | 3.0 g | ClC=1C=C(CN2C(C3(C4=CC=CC=C24)C(NC(C3)=O)=O)=O)C=CC1Cl | C18H12Cl2N2O3
reactant | water | 250 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5'-chloro-1'-(3,4-dichlorobenzyl)spiro[pyrrolidine-3,3'-indoline]-2,2',5-trione | 1.9 g | ClC=1C=C2C3(C(N(C2=CC1)CC1=CC(=C(C=C1)Cl)Cl)=O)C(NC(C3)=O)=O | C18H11Cl3N2O3
